US08614234B2
To a stirred solution of 5-{4-[3-(2-Fluoro-5-methyl-phenylcarbamoyl)-phenoxy]-pyridin-2-yl}-1H-pyrrole-3-carboxylic acid methyl ester (140 mg, 0.3 mmol) in THF (8 ml) was added 5M NaOH solution (1 ml, 5 mmol). The mixture was heated at 70° C. for 3 hours, cooled to room temp, and poured into 100 ml of water. 2M HCl was added until pH=4. The precipitates were filtered, washed with water, and dried to give 5-{4-[3-(2-Fluoro-5-methyl-phenylcarbamoyl)-phenoxy]-pyridin-2-yl}-1H-pyrrole-3-carboxylic acid as white solid. Yield: 120 mg, 92%.

reactant | 5-{4-[3-(2-Fluoro-5-methyl-phenylcarbamoyl)-phenoxy]-pyridin-2-yl}-1H-pyrrole-3-carboxylic acid methyl ester | 0.3 mmol, 140 mg | COC(=O)C1=CNC(=C1)C1=NC=CC(=C1)OC1=CC(=CC=C1)C(NC1=C(C=CC(=C1)C)F)=O | C25H20FN3O4
reactant | NaOH | 5 mmol, 5M, 1 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | HCl | 2M | Cl | ClH
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 5-{4-[3-(2-Fluoro-5-methyl-phenylcarbamoyl)-phenoxy]-pyridin-2-yl}-1H-pyrrole-3-carboxylic acid | FC1=C(C=C(C=C1)C)NC(=O)C=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)O)C=CC1 | C24H18FN3O4
